US05892040
Synthesis of 6,8-difluoro-1,4-dihydro-1-(N-methylformamido)-7-(4-methyi-1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid ethyl ester
A yellow suspension of 8.61 g (50 mmol) of 3-(formylmethylhydrazono)-propionic acid ethyl ester and 5.72 g (50 mmol) of magnesium ethylate in 30 ml of ethyl acetate were heated at reflux for 65 min. The solution was cooled to 0°-5° C., and at this temperature a solution of 10.63 g (50 mmol) of 2,3,4,5-tetra-fluoro-benzoic acid chloride in 10 ml of ethyl acetate was added dropwise in the course of 20 min. Subsequently the suspension was stirred for 30 min. in the cold and afterwards for 18.5 hours at room temperature. After the addition of a solution of 7.0 ml of 85% formic acid in 50 ml of water the mixture was well mixed and the two phases separated. The aqueous phase was extracted twice with each 50 ml of ethyl acetate, the united organic phases dried over sodium sulphate, filtered and evaporated at 50° C./20 torr. The residue of 3-(2-formyl-2-methyl-hydrazino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylic acid ethyl ester (18.81 g) was dissolved in 55 ml of butyl acetate, 5.83 g (55 nmol) of sodium carbonate were added, and the mixture was heated with stirring for 25 min. at reflux. 11.1 ml (100 mmol) of N-methylpiperazine were added to the resulting suspension of 3-(2-formyl-2-methyl-hydrazino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylic acid ethyl ester and heated for 4.5 hours under reflux using a water trap, in the course of which the temperature rose from 114° to 125° C. The suspension was evaporated at 50° C./20 torr and the resulting brown residue (31.8 g) worked up in analogy to Example 3 resulting in 10.2 g (50%) of 6.8-difluoro-1,4-dihydro-1-(N-methylformamido)-7-(4-methyl- 1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid ethyl ester as yellowish crystals of mp 178° C.

reactant | 3-(formylmethylhydrazono)-propionic acid ethyl ester | 50 mmol, 8.61 g | C(C)OC(CC=NNCC=O)=O | C7H12N2O3
reactant | magnesium ethylate | 50 mmol, 5.72 g | CC[O-].CC[O-].[Mg+2]
reactant | 2,3,4,5-tetra-fluoro-benzoic acid chloride | 50 mmol, 10.63 g | FC1=C(C(=O)Cl)C=C(C(=C1F)F)F | C7HClF4O
reactant | sodium carbonate | 55 nmol, 5.83 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-methylpiperazine | 100 mmol, 11.1 ml | CN1CCNCC1 | C5H12N2
reactant | 3-(2-formyl-2-methyl-hydrazino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylic acid ethyl ester | C(C)OC(C(=CNN(C)C=O)C(C1=C(C(=C(C(=C1)F)F)F)F)=O)=O | C14H12F4N2O4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | formic acid | 7.0 ml | C(=O)O | CH2O2
product | 6,8-difluoro-1,4-dihydro-1-(N-methylformamido)-7-(4-methyi-1-piperazinyl)-4-oxo-3-quinoline-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)N1CCN(CC1)C)F)N(C=O)C | C19H22F2N4O4
